* C:\Users\hotma\Documents\Solar-project\LTSpice\M_circuit.asc
* Generated by LTspice 24.1.10 for Windows.
V§PV+noise N001 0 SINE(20 1 60)
R§Shunt N002 N001 0.39
R§Load 0 N002 67
R1 N001 P001 100k
R2 P001 P002 100k
R3 P002 P003 100k
R4 P003 N007 100k
R5 N007 0 100k
C1 N007 0 100µ
V2 P004 0 9V
V3 P005 0 5
Rs1 N005 N003 10k
Rf1 N006 N005 100k
Rs2 N009 N004 10k
Rf2 0 N009 100k
X§U2 N005 N009 P005 0 N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U1 N007 N008 P004 0 N008 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V4 P006 0 5V
X§U3 N002 N003 P006 0 N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V5 P007 0 5V
X§U4 N001 N004 P007 0 N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C2 N009 0 100µ
C3 N006 N005 100µ
.tran 0.1
.lib UniversalOpAmp1.lib
.backanno
.end
